Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
clindamycin / metronidazole / Bactrim / Penicillins
 
Attending: ___.
 
Chief Complaint:
Chief Complaint:  AMS
Reason for MICU transfer:  prolonged QRS, QTc

 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ hx of anxiety/depression, self harm here c/o AMS. 

Patient just dc from ___ psych ___ this AM, was found at 
1630pm by EMS in ___ Doughnuts on the ground mumbling, 
somnolent and altered. Per report, she was sexually assaulted by 
an unknown suspect, when this was is unclear. There was no 
police report filed. She was given narcan x 2 with no effect. 
Vitals with EMS wnl, finger stick was 106. 

In the ED, initial vitals:   98.5 78 126/75 19 96% RA 

On arrival, pt was able to answer simple questions. the patient 
denied any ingestion, falls, trauma, f/c, HA, or pain, though 
history likely unreliable.  She did have a bag of meds with her 
all filled on day of admission.

Exam in the ED consistent with agitated delirium writhing around 
in bed. Pupils 3mm symmetric reactive, MM dry, no 
clonus/rigidity. Was given 2mg versed, 20mg IM zyprexa. EKG 
notable for QRS 112 with terminal R in aVR. Per toxicology, 
Terminal R wave has concerning morphology for sodium channel 
blockade. Citalopram in rare instances has been associated with 
sodium channel blockade. Promethazine can cause QTc 
prolongation.

labs notable for: WBC 12.9 (lymph 42.7), Cr 0.9, serum tox 
negative, urine tox pending.

Pt was given 2 amps sodium bicarb, bicarb ggt for ?sodium 
channel toxicitity per toxicology rec in the ED. Repeat EKG 
showed QRS of 105.

On arrival to the MICU, pt was sleepy, awake to sternal rub, 
mumbles, but quickly fell back asleep. She improved quickly with 
respect to mental status and did not require further 
intervention. Toxicology was consulted for concern for 
involuntary exposure (per report, the patient may have been 
date-raped). No significaznt interventions were made given her 
stable clinical status. She was started on prophylaxis for HIV 
which she should continue for a ___t which point she 
should follow up with infectious disease. She was transferred to 
the medical floor for further observation. Her hospital course 
was uncomplicated and her home psychiatric medications and 
methadone were  continued in house. She was somewhat labile and 
explosive during admission, and ultimately demanded to be 
discharged. Social work was also consulted for assistance with 
resources that would be available to her, but the patient was 
not amenable to what was available and asked to leave. Her 
ourpatient psychaitrist who follows her regularly was contacted 
about her admission. She was discharged from the hospital given 
that she was medically cleared. 

 
Past Medical History:
Anxiety
Depression
Psychotic disorder NOS (?paranoid schizophrenia)
Obesity
Sexual Assault
 
Social History:
___
Family History:
nc
 
Physical Exam:
ON ADMISSION:
-------------
Vitals: afebrile 69 140/89 14 100%RA
GENERAL: somnelant, awake to sternal rubs, mumbles, move all 
extremities 
HEENT: Sclera anicteric, MMM, oropharynx clear  
NECK: supple, JVP not elevated, no LAD  
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: obsese soft, non-tender, non-distended, bowel sounds 
present, no rebound tenderness or guarding, no organomegaly  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
SKIN:  no rash
NEURO:  moves all extremity, mumbles and awake briefly to 
sternal rubs.

ON DISCHARGE:
-------------
Temp 98.5, HR 75, BP 103/74, RR ___, O2 sat 98% RA 
General: well-appearing obese woman in NAD 
HEENT: PERRL, EOMI, MMM  
Neck:  supple, no JVD
CV: RRR, S1, S2, no extra heart sounds 
Lungs: CTAB  
Abdomen: soft, nontender, nondistended +BS 
GU: no foley  
Ext: warm, well-perfused, no edema 
Neuro: no gross deficits 

 
Pertinent Results:
ADMISSION LABORATORY DATA:
___ 05:15PM BLOOD WBC-12.9* RBC-3.98* Hgb-12.7 Hct-36.7 
MCV-92 MCH-31.8 MCHC-34.6 RDW-13.5 Plt ___
___ 05:15PM BLOOD Neuts-47.7* Lymphs-42.7* Monos-7.6 
Eos-1.3 Baso-0.6
___ 05:15PM BLOOD Glucose-92 UreaN-14 Creat-0.9 Na-139 
K-4.1 Cl-105 HCO3-27 AnGap-11
___ 09:38PM BLOOD ALT-18 AST-63* AlkPhos-72 TotBili-0.3
___ 05:15PM BLOOD Lipase-19
___ 05:15PM BLOOD HCG-<5
___ 05:15PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 07:17PM BLOOD ___ pO2-42* pCO2-43 pH-7.45 
calTCO2-31* Base XS-4
___ 05:32PM BLOOD Glucose-85 Na-144 K-4.0 Cl-110* 
calHCO3-30

Patient refused labs for the rest of her admission
 
Brief Hospital Course:
___ hx of anxiety/depression, self harm here c/o AMS with EKG 
findings concerning for sodium channel blockade.

# ?Ingestion -  QRS of 112 msec. Terminal R wave has concerning 
morphology for sodium channel blockade. Citalopram in rare 
instances has been associated with sodium channel blockade. 
Promethazine can cause QTc prolongation. Her telemetry and EKGs 
were subsequently normal and she was felt to be safe from a 
medical standpoint without further intervention. There was a 
report that she was date-raped, however toxicology came back 
negative for the substances tested for at the ___ 
she declined a rape kit but was placed on HIV prophylaxis which 
she should continue for a 28 day period. She should then 
follow-up with ID.  

# AMS - likely related to intake of psycho-active medications. 
somnlence on arrival to MICU likely ___ versed, 20mg IM 
zyprexa from the ED. appears able to protect her airway. no 
fever or clear source of infection. no gross electrolyte 
abnormalities. serum tox negative. urine tox pending. low 
concern for intracranial infection (no meningimus sign or fever 
on exam).  serum ETOH negative. no signs of trauma on exam. O2 
normal. BS in ED wnl. serum tox negative, as was urine tox.
Initially held clonidine, alprazolam, gabapentin, promethazine 
and restarted them once she was deemed to be clinically stable. 
There was no fever or localizing source of infection and low 
sspicion for intracranial infection. Chemistries grossly wnl. 

# Anxiety/Depression/Social: Initally held clonidine, 
alprazolam, gabapentin, promethazine, citalopram and restarted 
when deemed clinically appropriate. She was emotionally labile 
this admission, and slightly paranoid. She initially declined 
social work consult for resources, thedn accepted a consult; 
however, declined the potential services/ opportunities that 
would have been available to her. Given that these potential 
resources primarily involved psychiatric placement, she 
preferred to save her resources for a time in which she would 
potentially be in more need of them as she is limited in the 
number of days of services she can use by her insurance. 
 
# FEN: No IVF, replete electrolytes, regular diet  
# Prophylaxis: Subcutaneous heparin  
# Access: PIVs  
# Restraints: None needed
regular intervals per hospital policy  
# Communication: HCP: pt unable to provide
# Code: Full, presumed

**TRANSITIONAL ISSUES**
- will need close psychiatric follow-up; pt seen by ___ 
___ ___
- will need ID follow-up after sexual assault
- will need to complete 28 day course od HIV prophylaxis (end 
date ___
- pt on Methadone

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Divalproex (DELayed Release) 500 mg PO BID 
2. Citalopram 40 mg PO DAILY 
3. Gabapentin 800 mg PO TID 
4. ALPRAZolam 1 mg PO Q6H:PRN anxiety 
5. Docusate Sodium 100 mg PO BID 
6. CloniDINE 0.2 mg PO TID 
7. Methadone 105 mg PO DAILY 
8. Topiramate (Topamax) 50 mg PO BID 
9. Ibuprofen 400 mg PO Q6H:PRN body pain 
10. Nicotine Polacrilex 2 mg PO Q1H:PRN nicotine withdrawal 
11. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
12. ChlorproMAZINE 50 mg PO TID 

 
Discharge Medications:
1. ALPRAZolam 1 mg PO Q6H:PRN anxiety 
2. ChlorproMAZINE 50 mg PO TID 
3. CloniDINE 0.2 mg PO TID 
4. Divalproex (DELayed Release) 500 mg PO BID 
5. Docusate Sodium 100 mg PO BID 
6. Gabapentin 800 mg PO TID 
7. Methadone 105 mg PO DAILY 
8. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
9. Topiramate (Topamax) 50 mg PO BID 
10. Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY 
RX *emtricitabine-tenofovir [Truvada] 200 mg-300 mg 1 tablet(s) 
by mouth daily Disp #*25 Tablet Refills:*0
11. Raltegravir 400 mg PO BID 
RX *raltegravir [Isentress] 400 mg 1 tablet(s) by mouth twice a 
day Disp #*50 Tablet Refills:*0
12. Citalopram 40 mg PO DAILY 
13. Ibuprofen 400 mg PO Q6H:PRN body pain 
14. Nicotine Polacrilex 2 mg PO Q1H:PRN nicotine withdrawal 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
------------------
- altered mental status
- s/p sexual assault

SECONDARY DIAGNOSIS:
--------------------
- depression/ anxiety
- psychotic disorder NOS

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you during your hospital stay 
at ___. You came in because you 
were found down on the ground after being sexually assaulted and 
were confused when you woke. You were admitted to our ICU and 
your mental status improved. We continued your psychiatric 
medications and observed you on the medical floor. You are on 
prophylactic treatment to prevent sexually transmitted diseases 
including HIV and AIDS, and will need to complete a full 28 day 
course of treatment. It is now safe for you to be discharged. 
Please be sure to keep your follow-up appointments and take your 
medications as prescribed. You should see an infectious disease 
doctor in the coming week to follow-up. Again, it was a pleasure 
taking care of you. We wish you the very best !
Sincerely,
Your ___ Team
 
Followup Instructions:
___